US07094780B1
(a) Synthesis of [1-(5-Azaspiro[2.4]hept-7-yl)ethyl]carbamic acid tert-butyl ester
A solution of [1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)ethyl]carbamic acid tert-butyl ester (Example A4a, 1.47 g) in methanol (30 mL) in a Parr shaker is treated with 10% palladium on carbon (0.5 g) and hydrogen introduced (50 psi) for 24 hours. The reaction mixture is filtered through celite, washed with methanol, and the combined filtrate concentrated in vacuo to afford the title compound. MS CI: m/z 241 (MH+).

reactant | [1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)ethyl]carbamic acid tert-butyl ester | 1.47 g | C(C)(C)(C)OC(NC(C)C1CN(CC12CC2)CC2=CC=CC=C2)=O | C20H30N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | [1-(5-Azaspiro[2.4]hept-7-yl)ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1CNCC12CC2)=O | C13H24N2O2
